US07872031B2
A solution of 1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)ethanone in dry THF was slowly treated with DMF-DMA under N2 atmosphere for 45 min and stirred at RT until completion of the reaction. The reaction mixture was concentrated under reduced pressure to obtain 1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)-3-(dimethylamino)prop-2-en-1-one as semi solid. Washing the crude product with n-pentane and pet-ether resulted in a free flowing light brown solid (1.0 g, 58.8%) which was used as is in the next reaction without further purification.

reactant | 1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)ethanone | BrC=1C=C(C(=NC1)Cl)C(CC1=C(C(=CC=C1)Cl)Cl)=O | C13H7BrCl3NO
reactant | DMF-DMA | CN(C)C(OC)OC | C5H13NO2
solvent | THF | C1CCOC1 | C4H8O
product | 1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)-3-(dimethylamino)prop-2-en-1-one | BrC=1C=C(C(=NC1)Cl)C(C(=CN(C)C)C1=C(C(=CC=C1)Cl)Cl)=O | C16H12BrCl3N2O
